US08686002B2
3-(2-Methoxy-6-fluorobenzyl)-6-morpholin-4-ylquinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-5-morpholin-4-ylbenzaldehyde and 3-(2-methoxy-6-fluorophenyl)propionitrile.

reactant | 2-amino-5-morpholin-4-ylbenzaldehyde | NC1=C(C=O)C=C(C=C1)N1CCOCC1 | C11H14N2O2
reactant | 3-(2-methoxy-6-fluorophenyl)propionitrile | COC1=C(C(=CC=C1)F)CCC#N | C10H10FNO
product | 3-(2-Methoxy-6-fluorobenzyl)-6-morpholin-4-ylquinolin-2-amine | COC1=C(CC=2C(=NC3=CC=C(C=C3C2)N2CCOCC2)N)C(=CC=C1)F | C21H22FN3O2
